US08377970B2
N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]nicotinamide hydrochloride
Following the general procedure-1, N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]nicotinamide (130 mg) was prepared from intermediate 28 (200 mg, 0.78 mmol) and nicotinic acid (153 mg, 1.2 mmol) as an off-white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (70 mg) as a white solid. M.P.: 201.2-203.4° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.04 (s, 1H), 9.26 (s, 1H), 8.87 (d, J 4.8, 1H), 8.58 (d, J 4.8, 1H), 7.97 (d, J 12.8, 1H), 7.81 (d, J 5, 1H), 7.71 (d, J 8.6, 1H), 7.52 (t, J 8.7, 1H), 5.76 (s, 1H), 1.90-1.80 (m, 1H), 1.58-1.48 (m, 1H), 0.90-0.78 (m, 4H), 0.65-0.55 (m, 4H). MS (m/z): 363.14 [M+H—HCl]+.

reactant | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]nicotinamide | 130 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=C(C=C(C=C1)NC(C1=CN=CC=C1)=O)F | C21H19FN4O
reactant | nicotinic acid | 1.2 mmol, 153 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]nicotinamide hydrochloride | 70 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=C(C=C(C=C1)NC(C1=CN=CC=C1)=O)F | InChI=1S/C21H19FN4O.ClH/c22-17-10-16(24-21(27)15-2-1-9-23-12-15)7-8-19(17)26-20(14-5-6-14)11-18(25-26)13-3-4-13;/h1-2,7-14H,3-6H2,(H,24,27);1H
